US06586120B2
More specifically, a symmetrical compound can be synthesized by the following method: A mixture containing a fluorenone and an aniline is refluxed in the presence of an acid catalyst to produce an intermediate 9,9-bis(aminophenyl)fluorene. The intermediate is subsequently reacted with aryl halides (Ar—X and Ar′—X, stepwise) in the presence of a catalyst such as palladium to obtain the desired symmetrical product. An asymmetrical compound, on the other hand, can be synthesized as follows: A reaction mixture containing a fluorenone and two different anilines (e.g., an aniline and a 2-fluoroaniline as shown in the above scheme) is refluxed in the presence an acid catalyst to produce a mixture including an asymmetric fluorene intermediate. The asymmetric fluorene intermediate is then reacted with aryl halides (Ar—X and Ar′—X, stepwise) in the presence of a catalyst such as palladium to produce the desired asymmetrical product.

reactant | fluorenone | C1(C=CC=C2C3=CC=CC=C3C=C12)=O | C13H8O
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 9,9-bis(aminophenyl)fluorene | NC1=C(C=CC=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)C1=C(C=CC=C1)N | C25H20N2
